US09023844B2
115 mg (0.40 mmol) of N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]cyclopropanecarboxamide and 124 mg (1.1 eq 0.44 mmol) of 7-bromo-6-(4-fluorophenyl)-2,3-dihydropyrazolo[5,1-b][1,3]oxazole are dissolved in 2 mL 1,4-dioxan. To this are added 30 mg of bis(tricyclohexylphosphine)-palladium(II)dichloride (0.04 mmol, 0.1 eq) and 2 mL sodium carbonate solution (2M in H2O). The reaction mixture is flushed for 5 mins with argon and then sealed. Next the mixture is heated for 12 mins at 120° C. in the microwave (CEM Explorer). After cooling, insoluble components are filtered off and the salt residue washed with 1,4-dioxan. The organic phase is evaporated and the crude product purified by silica gel chromatography (eluent cyclohexane/ethyl acetate). 90 mg (61%) of N-{4-[6-(4-fluorophenyl)-2,3-dihydropyrazolo[5,1-b][1,3]oxazol-7-yl]pyridin-2-yl}cyclopropanecarboxamide are obtained as a colourless solid.

reactant | N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]cyclopropanecarboxamide | 0.40 mmol, 115 mg | CC1(OB(OC1(C)C)C1=CC(=NC=C1)NC(=O)C1CC1)C | C15H21BN2O3
reactant | 7-bromo-6-(4-fluorophenyl)-2,3-dihydropyrazolo[5,1-b][1,3]oxazole | 0.44 mmol, 124 mg, 1.1 eq | BrC=1C(=NN2C1OCC2)C2=CC=C(C=C2)F | C11H8BrFN2O
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxan | 2 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tricyclohexylphosphine)-palladium(II)dichloride | 0.04 mmol, 30 mg, 0.1 eq | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Cl-].[Cl-].[Pd+2]
product | N-{4-[6-(4-fluorophenyl)-2,3-dihydropyrazolo[5,1-b][1,3]oxazol-7-yl]pyridin-2-yl}cyclopropanecarboxamide | 90 mg, 61% | FC1=CC=C(C=C1)C1=NN2C(OCC2)=C1C1=CC(=NC=C1)NC(=O)C1CC1 | C20H17FN4O2
